US08048897B2
(3) Synthesis of 2-(4-Methylsulfanylbenzyl)phenol
In a nitrogen stream, dimethylsulfide (7.25 mL, 138 mmol) and a boron trifluoride-diethyl ether complex (2.1 mL, 8.8 mmol) were added to a solution of 1-benzyloxy-(4-methylsulfanylbenzyl)benzene (1.9 g, 5.9 mmol) in methylene chloride (15 mL) under cooling with ice, and the reaction mixture was stirred for 48 hours while gradually raising its temperature to room temperature. Water was added thereto under cooling with ice and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (1.19 g, 91%).

reactant | dimethylsulfide | 138 mmol, 7.25 mL | CSC | C2H6S
reactant | 1-benzyloxy-(4-methylsulfanylbenzyl)benzene | 5.9 mmol, 1.9 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC1=CC=C(C=C1)SC | C21H20OS
reactant | Water | O | H2O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Methylsulfanylbenzyl)phenol | 1.19 g, 91% | CSC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C14H14OS
